US05084456
Preparation 4: 3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE*
5.5 g (0.05 mol) of 2-amino-3-hydroxypyridine are introduced into a three-necked flask and the system is placed under argon. 100 ml of anhydrous tetrahydrofuran (THF) are added. 12.15 g (0.075 mol) of 1,1'-carbonyl-diimidazole are then introduced. The mixture is heated to reflux for 5 hours (under argon). The THF is then evaporated off. The residue is taken up with dichloromethane. Washings of the organic phase are performed with NaOH (5%) solution (6×150 ml); the cyclized product passes into the aqueous phase and precipitates at a pH in the region of 5 (by adding 2 N hydrochloric acid solution). The product is filtered off and stored in a desiccator.

reactant | 2-amino-3-hydroxypyridine | 0.05 mol, 5.5 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 1,1'-carbonyl-diimidazole | 0.075 mol, 12.15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE | O1C(NC2=NC=CC=C21)=O | C6H4N2O2
